US05272171
(3R, 4S)-4-Phenyl-3-triethylsilyloxy-2-azetidinone (LXXII)
To azetidinone LXXI (580 mg, 3.55 mmol) in dry THF (5.0 mL) was added imidazole (265.5 mg, 3.90 mmol), followed by triethylsilyl chloride (TESCl, 0.654 mL, 3.90 mmol). The mixture was allowed to be stirred for 1 h. Ethyl acetate was added and the organic layer was washed with brine, 10% aqueous HCl and dried. Silica gel chromatography (being eluted with 25% ethyl acetate in hexane) gave 670 mg (Y: 68%) of compound LXXII as a foam.

reactant | azetidinone | N1C(CC1)=O | C3H5NO
reactant | imidazole | 3.90 mmol, 265.5 mg | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | 3.90 mmol, 0.654 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
product | (3R, 4S)-4-Phenyl-3-triethylsilyloxy-2-azetidinone | C1(=CC=CC=C1)[C@H]1[C@H](C(N1)=O)O[Si](CC)(CC)CC | C15H23NO2Si
